US08685980B2
Following General Procedure B, 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (0.153 g, 0.405 mmol) and 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (95 mg, 0.445 mmol) gave 3-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-ylmethyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester as an off white solid (0.186 g, 80%) [following purification by SiO2 chromatography, eluting with 0-5% MeOH/EtOAc]. MS (ESI) m/z 575.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.405 mmol, 0.153 g | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
reactant | 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.445 mmol, 95 mg | C(C)(C)(C)OC(=O)N1C2CNCC1CC2 | C11H20N2O2
product | 3-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-ylmethyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)CC=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C31H42N8O3
